US05051524
A suspension of 2.46 g of 3-aminopropylphosphonous acid in 20 ml of hexamethyldisilazane is heated to reflux under an inert atmosphere for 24 hours after which a clear solution results. The excess hexamethyldisilazane is removed by distillation at atmospheric pressure under a slight positive pressure of inert gas to afford a colourless oil. The oil is cooled to circa 66° and treated with 0.64 g of anhydrouszinc iodide and 4.62 g of N-(2,3-epoxypropyl)phthalimide. An exothermic reaction occurs. The reaction mixture is refluxed for 6 hours after which time thin layer chromatography indicates the reaction to be complete. The reaction mixture is filtered and the filtrate evaporated to dryness in vacuo at 40°. The residue is dissolved in water and stirred at roomtemperature for 1 hour and the water removed in vacuo to give an oily solid. This is dissolved in 25 ml of 2.0M aqueous hydrochloric acid and washed with dichloromethane and ether. Removal of the water at 40° in vacuo affords a brown solid which is purified by ion-exchange chromatography on DOWEX® 50 W ×8 (14-40 mesl) to give 3-aminopropyl(2-hydroxy-3-phthalimido-propyl) phosphinic acid, m.p. 268°-71°, as a white solid.

reactant | 3-aminopropylphosphonous acid | 2.46 g | NCCCP(O)O | C3H10NO2P
reactant | iodide | 0.64 g | [I-]
reactant | N-(2,3-epoxypropyl)phthalimide | 4.62 g | O1C(CN2C(C=3C(C2=O)=CC=CC3)=O)C1 | C11H9NO3
solvent | hexamethyldisilazane | 20 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | hydrochloric acid | 2.0M, 25 ml | Cl | ClH
product | 3-aminopropyl(2-hydroxy-3-phthalimido-propyl) phosphinic acid | NCCCP(O)(=O)CC(CN1C(C=2C(C1=O)=CC=CC2)=O)O | C14H19N2O5P
